US06166059
At 20° C., chlorine gas is introduced into a mixture of 1.72 g (5 mmol) of 2-(1-chloro-cyclopropyl)-1-(2-chloro-phenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol and 0.65 g (10 mmol) of potassium cyanide in 20 ml of acetic acid. The reaction mixture is stirred at 20° C. for 20 hours and then diluted with dichloromethane. The mixture is then extracted repeatedly with dilute aqueous sodium hydroxide solution and the organic phase is dried over sodium sulphate and concentrated under reduced pressure. The product that remains is purified over silica gel using petroleum ether/ethyl acetate=1:1 as mobile phase. Concentration of the eluate gives 1.2 g (64% of theory) of 2-(1-chloro-cyclopropyl)-1-(2-chloro-phenyl)-3-(5-thiocyanato-1,2,4-triazol-1-yl)-propan-2-ol in the form of an oil.

reactant | chlorine | ClCl | Cl2
reactant | 2-(1-chloro-cyclopropyl)-1-(2-chloro-phenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol | 5 mmol, 1.72 g | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1S)O | C14H15Cl2N3OS
reactant | potassium cyanide | 10 mmol, 0.65 g | [C-]#N.[K+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(1-chloro-cyclopropyl)-1-(2-chloro-phenyl)-3-(5-thiocyanato-1,2,4-triazol-1-yl)-propan-2-ol | 1.2 g, 64% | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1SC#N)O | C15H14Cl2N4OS
